US05606051
N-Methyl-L-phenylalanine (2.50 g) was suspended in water (25 ml) and conc. HCl (1 ml) was added, with stirring. The solution was cooled to 5° C. and solid sodium nitrite (1.35 g) was added to the stirred solution. After stirring at 5° C. for 1 h, the reaction mixture was partitioned between dichloromethane and water. The organic solution was washed with brine and dried (MgSO4). After filtration the solvent was evaporated to yield N-nitro-N-methyl-L-phenylalanine as a white solid.

reactant | N-Methyl-L-phenylalanine | 2.50 g | CN[C@@H](CC1=CC=CC=C1)C(=O)O | C10H13NO2
reactant | HCl | 1 ml | Cl | ClH
reactant | sodium nitrite | 1.35 g | N(=O)[O-].[Na+]
solvent | water | 25 ml | O | H2O
product | N-nitro-N-methyl-L-phenylalanine | [N+](=O)([O-])N([C@@H](CC1=CC=CC=C1)C(=O)O)C | C10H12N2O4
